US07244843B2
Step C. Preparation of (±)-1,3,4,10b-tetrahydro-7-hydroxy-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt
To N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-7-hydroxy-pyrazino[2,1-a]isoindol-6(2H)-one (24 mg, 0.08 mmol) was added concentrated aqueous hydrogen chloride (1 mL). After 5 min, the solution was concentrated, diluted with water, and lyopholized to give the desired product as an off-white solid (8 mg, 42%). MS (ESI) 205.2 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-7-hydroxy-pyrazino[2,1-a]isoindol-6(2H)-one | 0.08 mmol, 24 mg | C(C)(C)(C)OC(=O)N1CC2N(C(C3=C(C=CC=C23)O)=O)CC1 | C16H20N2O4
reactant | hydrogen chloride | 1 mL | Cl | ClH
product | (±)-1,3,4,10b-tetrahydro-7-hydroxy-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt | 8 mg, 42% | Cl.OC1=C2C(N3C(C2=CC=C1)CNCC3)=O | InChI=1S/C11H12N2O2.ClH/c14-9-3-1-2-7-8-6-12-4-5-13(8)11(15)10(7)9;/h1-3,8,12,14H,4-6H2;1H
